US08304036B2
4.8 g (12.0 mmol) of propyltriphenylphosphonium bromide are initially introduced together with 3.60 g (9.56 mmol) of 5-(4′-ethyl-2,3-difluoro-biphenyl-4-yl)selenophene-2-carbaldehyde in 180 ml of THF, and a solution of 1.30 g (11.6 mmol) of potassium tert-butoxide in 20 ml of THF is added with ice-cooling. The mixture is stirred at RT for 1 h. Water and 2 N hydrochloric acid are added, and the batch is extracted with MTBE. The organic phase is washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:toluene=95:5). 2-But-1-enyl-5-(4′-ethyl-2,3-difluorobiphenyl-4-yl)selenophene is obtained as a yellow solid.

reactant | propyltriphenylphosphonium bromide | 12.0 mmol, 4.8 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 5-(4′-ethyl-2,3-difluoro-biphenyl-4-yl)selenophene-2-carbaldehyde | 9.56 mmol, 3.60 g | C(C)C1=CC=C(C=C1)C1=C(C(=C(C=C1)C1=CC=C([Se]1)C=O)F)F | C19H14F2OSe
reactant | potassium tert-butoxide | 11.6 mmol, 1.30 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | 180 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-But-1-enyl-5-(4′-ethyl-2,3-difluorobiphenyl-4-yl)selenophene | C(=CCC)C=1[Se]C(=CC1)C1=C(C(=C(C=C1)C1=CC=C(C=C1)CC)F)F | C22H20F2Se
